US07355084B2
3 g of catalyst A (3% Ru/SiO2) were placed in a 300 ml pressure reactor. The reactor was subsequently charged with 150 ml of a 33% strength solution of 2-ethylhexanal in THF. The hydrogenation was carried out at 130° C. and a pressure of 250 bar using pure hydrogen. The hydrogenation was continued until no more hydrogen was taken up and the reactor was subsequently vented. After distilling off the solvent, the reaction product was analyzed by gas chromatography. 2-Ethylhexanal had been reacted completely. 99.5% of ethylhexanol were obtained.

reactant | 2-ethylhexanal | C(C)C(C=O)CCCC | C8H16O
reactant | hydrogen | [H][H] | H2
reactant | THF | C1CCOC1 | C4H8O
product | ethylhexanol | 99.5% | C(C)C(CCCCC)O | C8H18O
